Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Penicillins / Pentothal / Bactrim
 
Attending: ___.
 
Chief Complaint:
bleeding
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ G3P2 at 32 wks presented with second episode of vaginal 
bleeding. Pt had first episode at 30wks which was light mostly 
spotting. This episode was heavier with bright red blood 
staining her pad and persisting for 8hours.
 
Past Medical History:
Asthma, anxiety, migraines, anemia
 
Social History:
Lives with mother. who is currently admitted at ___ with 
complications and MRSA infection s/p kidney transplant, husband 
and two children.
Denies smoking, etoh, drug use.
 
Physical Exam:
Physical Afebrile, VSS
 comfortable. Well appearing female
 abd: soft, ND, NT, gravid
 SSE small amount of dark blood in vagina. Cervix appeared long 
and closed. no ongoing bleeding
 
 FHT: 150 mod variability, no decels, + accels
Toco: rare ctx
 
Pertinent Results:
___ 02:32PM   ___ PTT-29.8 ___
___ 02:32PM   ___
___ 11:45AM   WBC-15.0* RBC-4.21 HGB-10.7* HCT-31.1* 
MCV-74* MCH-25.4* MCHC-34.4 RDW-15.4
___ 10:00AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 10:00AM URINE  BLOOD-LG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-SM 
 
Brief Hospital Course:
Pt was evaluated and vaginal bleeding seemed to have stopped. 
MFM consult was obtained. The fetus was noted to be appropriate 
for gestational age, vertex and had reassuring testing during 
her hospital course. The placenta was anterior and no previa was 
noted. The Patient received Betamethasone on ___ and ___ 
and admitted for bedrest overnight. Given no further bleeding, 
and the patients ability to arrange for friends to help at home 
with her children she was discharged home and advised to 
continue modified activity.
 
Medications on Admission:
PNV, FE
 
Discharge Medications:
pnv, FE
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
chronic abruption. 32 weeks.
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
 
Discharge Instructions:
modified bedrest
 
Followup Instructions:
___